US05840716
Triphenylphosphine (1.9 g) and concentrated hydrochloric acid (3 drops) were added to a solution of bis(p-ethoxyphenyl)disulfide (1.8 g) in 1,4-dioxane (20 ml) and water (5 ml). After stirring at 40° C. for 10 hours, the mixture was poured into chloroform (250 ml). After washing twice with water, the organic layer was concentrated to give p-ethoxybenzenethiol quantitatively. The title compound was obtained in a similar manner to Example 1 except that p-ethoxybenzenethiol was used instead of thiophenol.

reactant | Triphenylphosphine | 1.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bis(p-ethoxyphenyl)disulfide | 1.8 g | C(C)OC1=CC=C(C=C1)SSC1=CC=C(C=C1)OCC | C16H18O2S2
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | p-ethoxybenzenethiol | C(C)OC1=CC=C(C=C1)S | C8H10OS
